Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Quinidine-Quinine Analogues / Nsaids / Lipitor / Ampicillin / 
clindamycin / fluconazole / Vioxx / Mevacor
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography with balloon angioplasty of native PDA via 
SVG on ___
 
History of Present Illness:
This is a ___ year old man with an extensive cardiac history 
(including premature CAD) characterized below, who presented 
with retrosternal chest pain.

He notes that he had been taking doxycycline for a right great 
toe infection 2 weeks ago. He took this for 3 days, and stopped 
due to GI upset.

On the day of admission, he presented with substernal, 
non-radiating ___ dull aching chest pain, with intermittent 
sharp stabbing pains and intermittent radiation to the back. 
This was also accompanied by mild shortness of breath. He notes 
the pain to be exertional. It occurred previously in the past 
week when he was shoveling snow and then subsided when he 
stopped shoveling; these symptoms feels similar to when he had a 
stent put in ___ years ago.  

In the ED, initial vitals were T 98.0, HR 71, BP 148/70, RR 18, 
SaO2 99% on RA. EKG without dynamic changes from prior. 
Labs/studies notable for Troponin-T < 0.01 x2 and Cr 1.4. 
Patient was given: ASA 162 mg (as took ASA 2x81 mg already), 
Donnatal, 1 L NS, and metoprolol. Vitals on transfer T 97.8, HR 
80, BP 124/64, RR 18, SaO2 98% on RA.

Upon arrival to the cardiology ward, he endorsed ___ chest 
pain, non-radiating, associated with extremely mild dyspnea.
 
Past Medical History:
CARDIAC HISTORY:  
- CAD
 - CABG in ___ (LIMA-D1, SVG-OM, jump SVG-rPDA-PLV)  
 - PCI ___ BMS to SVG  
 - PCI ___ with DES to distal SVG  
 - PCI of the SVG-OM and SVG-PDA with drug-eluting stents 
___  
 - PTCA of SVG-OM on ___  
 - ISCHEMIC CARDIOMYOPATHY: LVEF 50% (___)  
- Dual-chamber ICD (DDD mode) for primary prevention, with 
generator change in ___  
- History of NSVT, no defibrillations required  

OTHER PAST MEDICAL HISTORY:  
- Hypertension
- Hyperlipidemia
- Diabetes mellitus  
- BPH  
- CKD, baseline Cr 1.2-1.3  

PAST SURGICAL HISTORY:  
- Cholecystectomy  
- Appendectomy  
- Bilateral knee arthroscopy  
- Herniorrhaphy
 
Social History:
___
Family History:
Father with CAD. Brother with CAD, CHF. Siblings with DM2.
 
Physical Exam:
On admission
GENERAL - pleasant elderly white man, appears comfortable, 
laying in bed, reporting ___ chest pain
VITALS - T 97.5 BP 139/83 HR 69 RR 18 SPO2 97% on RA Wt 77.8 kg
HEENT - sclerae anicteric, PERRL, oral mucosa moist  
NECK - no JVD  
COR - soft heart sounds, normal S1/S2, without appreciable 
murmur  
LUNGS - clear to auscultation bilaterally anterior & posterior  
ABDOMEN - soft, LLQ tenderness to deep palpation, nondistended, 
normal bowel sounds
EXTREMITIES - RLE with chronic trace edema, LLE without edema; 
bilateral ___, with 1+ DP pulses
SKIN - no rashes  
NEUROLOGIC - face symmetric, oriented x4, moving all extremities 
well  

At discharge
GENERAL: Well appearing man in NAD. Oriented x3. Mood, affect 
appropriate.
VS: T= 98 BP= 128/74 HR= 69 RR= 20 O2 sat= 95% on RA
Wt: 76.3 (76.5)
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa.
NECK: Supple with no JVD.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs, rubs or gallops. No 
thrills, lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB--no crackles, 
wheezes or rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness. 
EXTREMITIES: No clubbing, cyanosis or edema. No femoral bruits. 
Radial access site is clean and dry without hematoma.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
 
Pertinent Results:
___ 12:49PM BLOOD WBC-9.5 RBC-5.19 Hgb-15.8 Hct-47.7 MCV-92 
MCH-30.4 MCHC-33.1 RDW-12.6 RDWSD-42.7 Plt ___
___ 12:49PM BLOOD Glucose-110* UreaN-23* Creat-1.4* Na-136 
K-5.0 Cl-101 HCO3-20* AnGap-20
___ 01:20AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.1

___ 12:49PM BLOOD cTropnT-<0.01
___ 01:20AM BLOOD CK-MB-1 cTropnT-<0.01
___ 04:40PM BLOOD cTropnT-<0.01
___ 08:45PM BLOOD cTropnT-<0.01
___ 05:55AM BLOOD cTropnT-<0.01

___ 05:55AM BLOOD WBC-10.3* RBC-4.75 Hgb-14.5 Hct-43.5 
MCV-92 MCH-30.5 MCHC-33.3 RDW-12.7 RDWSD-42.4 Plt ___
___ 05:55AM BLOOD Glucose-105* UreaN-22* Creat-1.2 Na-133 
K-3.9 Cl-99 HCO3-24 AnGap-14
___ 05:55AM BLOOD Calcium-9.0 Phos-3.9 Mg-1.9

ECG ___ 12:19:34 ___
Probable atrial paced rhythm with intrinsic ventricular 
conduction. Left axis deviation consistent with left anterior 
fascicular block. Intraventricular conduction delay. Prolonged 
Q-T interval. Compared to the previous tracing of ___ the 
rhythm appears to be atrial paced. The other findings are 
similar.

ETT-MIBI ___
___ yo man with HL, HTN, DM, CKD, h/o nonsustined VT and s/p 
PPM-ICD, extensive CAD history with MI and CABG in ___ with 
subsequent PCIs in ___ and POBA in ___ was referred to 
evaluate a chronic anterior chest discomfort. The patient 
completed 11 minutes of a Gervino protocol representing an 
average exercise tolerance; ~ ___ METS. The patient could have 
continued to exercise, however the exercise was stopped due to a 
hypotensive blood pressure response to exercise.
  Prior to exercise the patient reported an anterior chest 
discomfort; ___. This discomfort did not change during exercise 
or recovery. At peak exercise, and in the presence of a 
nonspecific IVCD and diffuse ST-T wave abnormalities, 1-2 mm of 
horizontal/downsloping ST segment depression was noted 
inferiorly and in leads V4-V6. In addition, 1-1.5 mm of 
additional ST segment elevation was noted in aVR. These ST 
changes resolved with rest and were absent 10 minutes 
post-exercise. The rhythm was sinus with occasional isolated 
APBs and VPBs. As noted, a hypotensive blood pressure response 
was noted with exercise. The heart rate response to exercise was 
blunted. 
IMPRESSION: Average exercise tolerance. Hypotensive blood 
pressure response resulting in test termination. Atypical 
symptoms with diffuse ST segment changes suggestive of 
myocardial ischemia in the presence of baseline ECG 
abnormalities; see above. 
Nuclear imaging:
  Left ventricular cavity size is severely dilated. There is 
akinesis of apical anterior, anteroseptal and inferoseptal walls 
and hypokinesis of other areas. The calculated left ventricular 
ejection fraction is 19%.
  Again seen is severe fixed defect of the apex and anterior 
wall, and moderate fixed anteroseptal and inferoseptal defect.
IMPRESSION:
1. No significant interval change.
2. Severe fixed defect of the apex and anterior wall, and 
moderate fixed anteroseptal and inferoseptal defect. There is 
akinesis in the area of the defects and hypokinesis of other 
areas.
3. EF 19%, not significantly changed. 

Cardiac catheterization ___
Coronary Anatomy
Dominance: Right
LIMA to LAD: Patent. LAD is small and diffusely diseased.
SVG to OM: Patent. Ostial 50% stenosis with catheter dampening, 
unchanced since prior.
SVG to PDA. Proximal 40% stenosis graft. Retrograde limb of PDA 
with focal 90% stenosis.
Interventional Details
After discussion with Dr. ___ covering attending) and the 
patient, we proceeded with PCI of the PDA stenosis. UFH 
anticoagulation. The SVG to PDA was wired back into the distal 
RCA using a Prowater wire, and exchanged over a FineCross for a 
Wiggle wire. Angioplasty with 2.0 compliant and 2.0 NC balloons 
at > 20 ATM. The distal RCA which filled several small branches 
was also angioplastied throughout.
The final residual stenosis was 40% in the mid PDA. Because the 
vessel was small, we did not pursue further aggressive 
approached to expanded the lesion.
Impressions:
Patent grafts.
PDA focal 90% stenosis.
POBA of recalcitrant lesion, final stenosis is 40%.
 
Brief Hospital Course:
___ year old man with H/O CAD and MI s/p CABG and multiple PCIs 
who presents with exertional chest pain, without dynamic EKG 
changes and negative biomarkers.

# Unstable Angina: Patient presented with chest pain at rest, 
unchanged EKG, and negative biomarkers. Presentation was most 
concerning for unstable angina from restenosis of stents or new 
graft stenosis. He was evaluated with a stress test which was 
stopped early due to hypotensive response with ischemic EKG 
changes (ST elevation aVR, ST depressions inferolaterally) and 
symptoms felt atypical for ischemia (baseline ___ pain 
unchanged with exercise). Coronary angiography on ___ showed 
patent LIMA-LAD. LAD was small and diffusely diseased. SVG-OM 
with ostial 50% stenosis with dampening of pressures when 
engaged, unchanged since prior. SVG-PDA with proximal 40% 
stenosis graft, but retrograde limb of PDA had a focal 90% 
stenosis. Balloon angioplasty was done on native PDA via the SVG 
with residual 40% stenosis post procedurally (too small to 
stent). Patient was chest pain free on discharge on his home 
regimen with increase in dosing of his statin.

# ___ on CKD: Patient presented with mild ___ on admission. This 
improved with PO fluids. Thought to be due to poor PO intake in 
the days prior to admission.

Transitional Issues:
--------------------
- Monitor for myalgias as rosuvastatin dose increased to 40 mg 
as patient has had myalgias with higher doses of atorvastatin in 
the past.
- Continue aspirin, clopidogrel, lisinopril for medical 
management of CAD
- PPI changed to pantoprazole to avoid FDA warning about 
drug-drug interaction between omeprazole and clopidogrel
- Did not start additional anti-anginal medication as patient 
was chest pain free on discharge. Consider starting if symptoms 
recur.
- Patient had ___ on admission, but improved with fluids. Now at 
his baseline Cr 1.2. Follow up lab draw ordered for ___ days 
from discharge.
-Consider outpatient TTE for evaluation of cardiac function
# CONTACT: 
 - Name of health care proxy: ___ 
 - Relationship: wife 
 - Phone number: ___ 
 - Cell phone: ___ 
# CODE STATUS: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Diazepam 2 mg PO QHS:PRN RESTLESS LEGS 
3. Metoprolol Tartrate 50 mg PO BID 
4. Rosuvastatin Calcium 20 mg PO QPM 
5. Furosemide 20 mg PO EVERY OTHER DAY 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN ANGINA 
7. Clopidogrel 75 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Aspirin 81 mg PO DAILY
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Clopidogrel 75 mg PO DAILY 
3. Diazepam 2 mg PO QHS:PRN RESTLESS LEGS 
4. Furosemide 20 mg PO EVERY OTHER DAY 
5. Lisinopril 20 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN ANGINA 
8. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
9. Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin [___] 40 mg 1 tablet(s) by mouth qPM Disp 
#*30 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Unstable angina
-Coronary artery disease, native and bypass graft
-Acute kidney injury
-Chronic kidney disease, stage 3
-Hypertension
-Hyperlipidemia
-Diabetes mellitus, with non-proliferative retinopathy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ with chest pain. You underwent and 
stress test and a cardiac catheterization which showed that some 
of the blood flow to your heart was limited. This is likely why 
you had pain. You underwent a balloon angioplasty, which opened 
up a narrowed vessel in your heart to help restore flow. We hope 
that this will help with your symptoms and glad that you are 
chest pain free today. 

Please have follow up labs drawn in ___ days at your 
cardiologist's office. Please follow up with your PCP and your 
cardiologist. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

It was a pleasure taking care of you.

We wish you all the best, 

Your ___ cardiology team 
 
Followup Instructions:
___